Name:  ___              Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
confusion, gait unsteadiness, twitching
 
 
Major Surgical or Invasive Procedure:
None
 
History of Present Illness:
___ otherwise healthy male presenting for sudden onset
transient memory loss, gait unsteadiness, and vomiting that
occurred this morning with significant exertion while running.

Patient states that he was in his usual, good state of health
when he left home this morning to push himself on a several-mile
run. He remembers leaving the house and running, but his memory
then cuts out and cannot remember any events until he was home
with his wife. Patient and his wife, who is also present, 
deduced
from his phone location tracker that he walked the remaining
1-mile home. Does not believe he fell or hit his head though
limited memory of events.

Upon returning, his wife found him to have a very unsteady,
wobbly gait, unusually diaphoretic (even in setting of 
exercise),
though did NOT seem confused to her. He additoinally felt
lightheaded/dizzy and had one episode of non-bloody vomiting.
Patient then asked wife to call ___.

Upon arrival to hospital they report that he rapidly improved
having only received fluid bolus in ED. Upon arrival to floor he
is feeling almost back to normal with only mild, frontal 
headache
similar to what he has had before. He denies any sensory/hearing
changes, fevers, chills, chest pain, palpitations, abdominal
pain, dysuria, or other symptoms. He states nothing like this 
has
happened before to him.
 
Past Medical History:
None
 
Social History:
___
Family History:
Uncle with hx stroke. No history of seizures, cardiac disease, 
or
other relevant ___.
 
Physical Exam:
ADMISSION PHYSICAL EXAM
=======================
Vitals: 98.3 114/64 67 16 98 RA
GEN: Well appearing man in no acute distress. Well groomed,
appears stated age.
NEURO: AAOx3. CNII-XII grossly intact. Strength 5+ in all
extremities. No sensory deficits. Gait normal. Finger-to-nose
normal.
HEENT: No evidence of head trauma. EOMI. PERRL. Anicteric.
CARD: Regular rate & rhythm. No appreciable murmurs.
PULM: Lung fields clear to auscultation bilaterally. Breathing
comfortably on room air.
ABD: Soft, non-tender, non-distended.
EXT: Warm, well perfused. No rashes, effusions, or evidence of
trauma.

DISCHARGE PHYSICAL EXAM
=======================
Vitals: T 97.8 BP 129/65 P 54 R 20 O2 98% RA
GEN: Well appearing man in no acute distress. Well groomed,
appears stated age.
NEURO: AAOx3. CNII-XII grossly intact. Strength 5+ in all
extremities. No sensory deficits. Gait normal. Finger-to-nose
normal.
HEENT: No evidence of head trauma. EOMI. PERRL. Anicteric.
CARD: Regular rate & rhythm. No appreciable murmurs.
PULM: Lung fields clear to auscultation bilaterally. Breathing
comfortably on room air.
ABD: Soft, non-tender, non-distended.
EXT: Warm, well perfused. No rashes, effusions, or evidence of
trauma.

 
Pertinent Results:
ADMISSION LABS
==============
___ 11:00AM BLOOD WBC-11.8*# RBC-4.81 Hgb-14.9 Hct-43.7 
MCV-91 MCH-31.0 MCHC-34.1 RDW-12.4 RDWSD-40.6 Plt ___
___ 11:00AM BLOOD Neuts-81* Bands-0 Lymphs-11* Monos-4* 
Eos-1 Baso-1 ___ Metas-2* Myelos-0 AbsNeut-9.56* 
AbsLymp-1.30 AbsMono-0.47 AbsEos-0.12 AbsBaso-0.12*
___ 11:00AM BLOOD Hypochr-NORMAL Anisocy-1+* Poiklo-1+* 
Macrocy-NORMAL Microcy-NORMAL Polychr-1+* Ovalocy-1+*
___ 11:00AM BLOOD Plt Smr-NORMAL Plt ___
___ 11:00AM BLOOD Glucose-82 UreaN-18 Creat-1.9* Na-146* 
K-4.5 Cl-108 HCO3-26 AnGap-12
___ 11:00AM BLOOD ALT-19 AST-22 CK(CPK)-157 AlkPhos-87 
TotBili-0.6
___ 11:00AM BLOOD CK-MB-3
___ 11:00AM BLOOD Albumin-4.5 Calcium-10.1 Phos-1.3* Mg-2.0
___ 05:17PM BLOOD Calcium-9.0 Phos-1.7* Mg-1.9
___ 11:00AM BLOOD Prolact-64*
___ 11:00AM BLOOD ASA-NEG Ethanol-NEG Acetmnp-NEG 
Bnzodzp-NEG Barbitr-NEG Tricycl-NEG
___ 11:27AM BLOOD Glucose-79 Na-146* K-4.3 Cl-109* 
calHCO3-26
___ 02:50PM URINE Hours-RANDOM
___ 02:50PM URINE Hours-RANDOM
___ 02:50PM URINE Hours-RANDOM
___ 02:50PM URINE Uhold-HOLD
___ 02:50PM URINE Gr Hold-HOLD
___ 02:50PM URINE bnzodzp-NEG barbitr-NEG opiates-NEG 
cocaine-NEG amphetm-NEG oxycodn-NEG mthdone-NEG
 
PERTINENT LABS
==============
___ 07:33AM BLOOD WBC-6.4 RBC-4.25* Hgb-13.2* Hct-39.4* 
MCV-93 MCH-31.1 MCHC-33.5 RDW-13.0 RDWSD-43.9 Plt ___
___ 11:00AM BLOOD Neuts-81* Bands-0 Lymphs-11* Monos-4* 
Eos-1 Baso-1 ___ Metas-2* Myelos-0 AbsNeut-9.56* 
AbsLymp-1.30 AbsMono-0.47 AbsEos-0.12 AbsBaso-0.12*
___ 02:55PM BLOOD Glucose-88 UreaN-17 Creat-1.4* Na-144 
K-3.9 Cl-108 HCO3-26 AnGap-10
___ 11:00AM BLOOD Prolact-64*
___ 11:00AM BLOOD ASA-NEG Ethanol-NEG Acetmnp-NEG 
Bnzodzp-NEG Barbitr-NEG Tricycl-NEG
 
IMAGING AND STUDIES
===================
CT Head (___)
FINDINGS:  
There is no evidence of acute major vascular territorial 
infarction, hemorrhage, edema, or mass.  The ventricles and 
sulci are normal in size and configuration. There is no evidence 
of fracture.  The visualized portion of the paranasal sinuses, 
mastoid air cells, and middle ear cavities are clear.  The 
visualized portion of the orbits are unremarkable.  Small amount 
of cerumen is seen in the bilateralexternal auditory canals. 
IMPRESSION: 1. No acute intracranial abnormalities. 
 
MRI Brain (___)
FINDINGS:  
There is no evidence of hemorrhage, edema, masses, mass effect, 
midline shift or infarction. The ventricles and sulci are normal 
in caliber and 
configuration. The major intracranial vascular flow voids are 
maintained. The orbits, paranasal sinuses and mastoid air cells 
are normal. 
IMPRESSION:  Normal brain MRI. 
 
EEG:
Preliminary read: No epileptiform discharges or evidence of 
slowing.
Final read: pending 
 
DISCHARGE LABS
==============
___ 07:33AM BLOOD WBC-6.4 RBC-4.25* Hgb-13.2* Hct-39.4* 
MCV-93 MCH-31.1 MCHC-33.5 RDW-13.0 RDWSD-43.9 Plt ___
___ 07:33AM BLOOD Glucose-87 UreaN-20 Creat-1.3* Na-147* 
K-4.0 Cl-108 HCO3-24 AnGap-15
___ 02:55PM BLOOD Glucose-88 UreaN-17 Creat-1.4* Na-144 
K-3.9 Cl-108 HCO3-26 AnGap-10
___ 02:55PM BLOOD Calcium-8.9 Phos-3.0
___ 07:33AM BLOOD Calcium-8.9 Phos-3.4 Mg-1.9
 
Brief Hospital Course:
Mr. ___ is a ___ otherwise healthy male presenting 
for sudden onset transient memory loss, gait unsteadiness, and 
vomiting of unclear etiology in setting of significant exertion 
found to have an ___, with rapid improvement after fluid bolus. 

#Memory lapse:
#Gait unsteadiness:
Patient presented with transient retrograde amnesia, gait ataxia 
and vomiting. Presentation considered to be most likely 
consistent with acute heat exhaustion given history of heavy 
exertion with concurrent evidence of dehydration ___, 
hypernatremia). Neurology was initially consulted in the 
emergency department and recommended workup with EEG and MRI to 
rule out seizure. EEG without evidence of epileptiform activity 
or slowing. MRI brain without abnormalities. However, given 
elevated prolactin and history of transient amnesia, neurology 
felt that seizure was still high on the differential. Treatment 
with antiepileptic drugs was not initiated, but the patient was 
advised to follow up with epilepsy clinic in ___ months to 
further monitor his symptoms. 

# Acute kidney injury
Cr initially 1.9, downtrending after 2 L fluid bolus. ___ most 
likely prerenal in the setting of dehydration and heavy 
exertion. He maintained good urine output and his creatinine 
continued to downtrend during the admission. His Cr at discharge 
was: 1.4

# Leukocytosis:
Initial leukocytosis to 11.8 felt to most likely be ___ an acute 
stress reaction as he was afebrile, without focal findings 
suggestive of infection. WBC normalized to 6.4 on the day of 
discharge.

#Elevated prolactin
Prolactin elevated to 64, although chronicity is unknown. 
Prolactin can be elevated in the post-ictal period and therefore 
it should be rechecked in ___ weeks to assess for resolution.

#Hypernatremia
Na initially elevated to 146, mostly like secondary to 
dehydration. His Na at discharge was: 144.

Transitional Issues
===================
[] Please recheck Cr in ___ days from discharge to ensure 
downtrending. 
[] Recheck prolactin in ___ weeks (elevated at 64 on this 
admission)
[] Follow up with neurology 'first seizure clinic' within ___ 
months for continued follow up
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. This patient is not taking any preadmission medications

 
Discharge Medications:
None
 
Discharge Disposition:
Home
 
Discharge Diagnosis:
PRIMARY DIAGNOSES
=================
Dehydration
Possible seizure
Retrograde amnesia  
Gait instability

SECONDARY DIAGNOSES
===================
Hypertension

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___,

It was a pleasure taking care of you at ___!

Why was I here?
- You came to the hospital because you were having vomiting, 
difficulty walking and brief memory loss after going on a run

What was done while I was here?
- You were given IV fluids in the emergency room, because it 
seemed like some, if not all, of your symptoms could be due to 
heat stroke from going on a long run
- You were seen by the neurology team in the emergency room who 
were concerned that you could have had a seizure
- You had an EEG (monitoring of the electrical activity in your 
brain) which did not show any seizure activity
- You also had imaging of your brain which was normal
- Your heart activity was monitored overnight and you did not 
have any abnormal heart rhythms

What should I do when I get home?
- You should stay well hydrated, especially when doing physical 
activity outside in the heat
- You should follow up in neurology seizure clinic
- You should follow up with your primary care doctor within 1 
week
- You should take all of your medications as prescribed 
- Lab follow up: 
1. Check kidney function within 1 week
2. Check your prolactin level in ___ weeks 

We wish you all the best!

- Your ___ team 
 
Followup Instructions:
___